US07405210B2
Preparation 25: 3-(2-Bromo-5-nitropyridin-4-yl)-2-oxopropionic acid ethyl ester
To a solution of potassium ethoxide (2.05 g, 24.3 mmol) in diethyl ether (70 mL) and ethanol (10 mL) under an argon atmosphere was added diethyl oxalate (3.3 mL, 24.3 mmol) and the reaction stirred at rt for 15 min. A solution of 2-bromo-4-methyl-5-nitropyridine (Preparation 24, 4.8 g, 22.1 mmol) in diethyl ether (20 mL) was added to the reaction mixture giving an immediate black precipitate. The reaction was allowed to stir at rt for 6 h, then cooled to 0° C. and filtered to give a black solid. The solid was dissolved in water (250 mL) and acidified to pH 4 with acetic acid resulting in formation of a red precipitate. The solid was collected and dried to give the title compound as a red solid. δH (d6 DMSO): 1.16 (3H, t), 4.01 (2H, q), 6.55 (1H, s), 7.92 (1H, s), 8.96 (1H, s).

reactant | potassium ethoxide | 24.3 mmol, 2.05 g | [O-]CC.[K+]
reactant | diethyl oxalate | 24.3 mmol, 3.3 mL | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | 2-bromo-4-methyl-5-nitropyridine | 22.1 mmol, 4.8 g | BrC1=NC=C(C(=C1)C)[N+](=O)[O-] | C6H5BrN2O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | diethyl ether | 70 mL | C(C)OCC | C4H10O
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
solvent | water | 250 mL | O | H2O
product | 3-(2-Bromo-5-nitropyridin-4-yl)-2-oxopropionic acid ethyl ester | C(C)OC(C(CC1=CC(=NC=C1[N+](=O)[O-])Br)=O)=O | C10H9BrN2O5
